US08084616B2
4-(3-(Dimethylamino)pyridin-2-yl)-4-(trifluoromethyl)cyclohex-2-enone
A solution of Example 26A (418 mg, 2.014 mmol) and (E)-3-(tert-butyldimethylsilyloxy)-N,N-dimethylbuta-1,3-dien-1-amine (Aldrich, 527 mg, 2.316 mmol) in toluene (1.5 mL) was heated in a microwave at 140° C. for 2 hours, and then chromatographed on silica gel (AnaLogix SF15-24G; 50 micron silica; elution with 0-50% ethyl acetate in hexane at 20 mL/min). Repeated the reaction in a microwave at 120° C. for 2 hours with a solution of Example 26A (422 mg, 2.033 mmol) and (E)-3-(tert-butyldimethylsilyloxy)-N,N-dimethylbuta-1,3-dien-1-amine (693 mg, 3.05 mmol) in toluene (2 mL), and then chromatographed on silica gel (AnaLogix® SF15-24G; 50 micron silica; elution with 0-50% ethyl acetate in hexane at 20 mL/min). The title compound (165 mg, 0.580 mmol) was isolated as an orange solid. A solution of the isolated intermediate 7-(tert-butyldimethylsilyloxy)-5,5-dimethyl-9a-(trifluoromethyl)-5a,8,9,9a-tetrahydro-5H-pyrido[3,2-b]indol-5-ium chloride (395 mg, 0.908 mmol) in tetrahydrofuran (9 mL) was treated with 1N hydrochloric acid (3.0 mL, 3.0 mmol). The reaction mixture was stirred overnight at ambient temperature, quenched with sodium bicarbonate solution (40 mL), extracted twice with ethyl acetate (40 mL), washed with brine, dried (Na2SO4), and concentrated to an orange oil. The residue was purified by silica gel chromatography (AnaLogix® SF 10-8G; 50 micron silica; elution with 0-40% ethyl acetate in hexane at 15 mL/min) to provide additional title compound (131 mg, 0.461 mmol) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ ppm 8.54 (dd, J=4.5, 1.6, 1H), 7.75 (dd, J=8.0, 1.7, 1H), 7.74 (dd, J=10.2, 2.1, 1H), 7.35 (dd, J=8.1, 4.5, 1H), 5.90 (d, J=10.2, 1H), 3.54-3.44 (m, 1H), 2.65 (s, 3H), 2.45-2.35 (m, 2H), 2.33 (s, 3H), 2.13-1.97 (m, 1H); MS (DCI/NH3) m/e 285 (M+H)+.

reactant | 7-(tert-butyldimethylsilyloxy)-5,5-dimethyl-9a-(trifluoromethyl)-5a,8,9,9a-tetrahydro-5H-pyrido[3,2-b]indol-5-ium chloride | 0.908 mmol, 395 mg | [Cl-].[Si](C)(C)(C(C)(C)C)OC=1CCC2(C3=C([N+](C2C1)(C)C)C=CC=N3)C(F)(F)F
reactant | hydrochloric acid | 3.0 mmol, 1N, 3.0 mL | Cl | ClH
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
product | 4-(3-(Dimethylamino)pyridin-2-yl)-4-(trifluoromethyl)cyclohex-2-enone | 0.461 mmol, 131 mg | CN(C=1C(=NC=CC1)C1(C=CC(CC1)=O)C(F)(F)F)C | C14H15F3N2O
